US07470713B2
4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-methyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one:
2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-5-phenyl-imidazol-1-ol (0.093 g, 0.228 mmol) was reacted as described for the synthesis of 4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-ethyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one except that the compound was first treated with titanium(III) chloride and then hydrochloric acid/acetic acid. The title material was obtained (0.013 g, 14%) as a brown solid. HPLC 90.4% (220 nm), LCMS (+ESI, M+H+) m/z 421; IR ν (cm−1): 3276, 2920, 1643; HRMS calcd for C23H22N4O2Cl=421.1431, found: 421.1409; 1H NMR (400 MHz, methanol-d4) δ (ppm): 2.54 (3H, g), 3.64 (1H, dd, J=13.5 and 7.1 Hz), 3.70 (1H, dd, J=13.5 and 5.1 Hz), 4.97 (1H, t, J=5.8 Hz), 6.25 (1H, d, J=7.5 Hz), 7.21-7.68 (1OH, m), 7.71 (1H, d, J=8.0 Hz).

reactant | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-5-phenyl-imidazol-1-ol | 0.228 mmol, 0.093 g | IC1=C(C(=NC=C1)OC)C=1N(C(=C(N1)C)C1=CC=CC=C1)O | C16H14IN3O2
reactant | 4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-ethyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1NC(=C(N1)CC)C1=CC=CC=C1)O | C24H23ClN4O2
reactant | hydrochloric acid acetic acid | Cl.C(C)(=O)O
catalyst | titanium(III) chloride | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-methyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1NC(=C(N1)C)C1=CC=CC=C1)O | C23H21ClN4O2
